US08492371B2
1-(2-hydroxyethyl)cyclopentanol
1,4-dibromobutane (10 g, 46.3 mmol) in THF (100 mL) was treated with magnesium (2.81 g, 116 mmol) and I2 (100 mg) as initiator. The mixture was stirred at room temperature for 3 hours. To the mixture was added dropwise oxetan-2-one (3.34 g, 46.3 mmol) in THF (25 mL). The reaction was stirred at room temperature for 12 hours, quenched with saturated NH4Cl, and the mixture was extracted with isopropanol/CH2Cl2 (1:3) (2×100 mL). The organic layers were combined and dried over MgSO4, filtered and concentrated. The residue was purified by distillation at 95-100° C. (0.6 torr) to provide the title compound (1.1 g, 18%) MS (DCI/NH3) m/z 148 (M+NH4)+.

reactant | 1,4-dibromobutane | 46.3 mmol, 10 g | BrCCCCBr | C4H8Br2
reactant | magnesium | 116 mmol, 2.81 g | [Mg] | Mg
reactant | oxetan-2-one | 46.3 mmol, 3.34 g | O1C(CC1)=O | C3H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | I2 | 100 mg | II | I2
product | 1-(2-hydroxyethyl)cyclopentanol | 1.1 g, 18% | OCCC1(CCCC1)O | C7H14O2
